### PR TITLE
Monad

### PR DESCRIPTION
**Pull request by Scikud**
@spolu @jesse-michael-han lmk if these look alright

### CODE REVIEW

**Comment by jesse-michael-han** [comment]
Good, looks like the test for `tac2` is passing. Can you write a similar test for `tac3` and try to simulate the proof of the following using `tac1`, `tac2`, and `tac3`?

```lean
/--
  proves that 0 = 1 -> 0 = 2 by conjecturing that 0 = 1 -> false and then using false.elim
-/
example (h : 0 =  1) : 0 = 2 :=
begin
  have hf : false := nat.no_confusion h,
  exact false.elim ‹_›
end
```

File: src/conjecture_tactics.lean [hunk 1]
```diff
@@ -0,0 +1,141 @@
...
+
+  final_ts ← tac₃ ts_old nm  new_ts,
+  tactic.write final_ts,
+  pure ()
+}
+
+lemma dummy_lemma : 0 = 2 :=
+begin
+  test_all_conjecture_tactics,
+  exact false.elim <_>
```
Comment (Scikud) [inline src/conjecture_tactics.lean:133]: @jesse-michael-han I'm having trouble closing the goals here.
At this point the tactic state is something like 
```
h: 0 = 1 → false
⊢ 0 = 2

```
when I think we really want something like

```
h: false
⊢ 0 = 2

```
Any pointers?

File: src/basic/conjecture_tactics.lean [hunk 2]
```diff
@@ -0,0 +1,111 @@
...
+-/
+
+import tactic
+import tactic.gptf.basic
+import util.tactic
+
+/--
+Does bad things. Accepts a conjecture and just adds it to the tactic state without proof
+-/
+meta def dangerous_assume_conjecture (nm_str : string) (conj_str: string): tactic unit := do {
```
Comment (Scikud) [inline src/basic/conjecture_tactics.lean:16]: @spolu I think this does what we talked about. Accepts a conjecture hypothesis and returns the half of the tactic state where the hypothesis is assumed to have been closed.

Comment (spolu) [reply src/basic/conjecture_tactics.lean:16]: Can you go all the way to having the lean REPL interface operational so that I can play with it?

Comment (Scikud) [reply src/basic/conjecture_tactics.lean]: yep! Just wanted to make sure specification was Ok with you first :)

Use is something like

Example
```
["init_search", ["aopsbook_v2_c14_em2",""]]
{"error":null,"search_id":"0","tactic_state":"⊢ ∀ (a b : ℝ), 0 < a ∧ 0 < b → real.sqrt (a * b) ≤ (a + b) / 2","tactic_state_id":"0"}
```
intros
```
["run_tac", ["0","0","intros"]]
{"error":null,"search_id":"0","tactic_state":"a b : ℝ,\th₀ : 0 < a ∧ 0 < b\t⊢ real.sqrt (a * b) ≤ (a + b) / 2","tactic_state_id":"1"}
```
then we can use the **conjecture** endpoint, which replaces the current goal with the conjecture hypothesis, here the hypothesis is h = false (nonsense conjecture)
```
["conjecture", ["0","1","conjecture,h,false"]]
{"error":null,"search_id":"0","tactic_state":"a b : ℝ,\th₀ : 0 < a ∧ 0 < b\t⊢ false","tactic_state_id":"2"}
```
assuming you've found the proof during  proofsearch you can then use the **assume** endpoint which will inject the given hypothesis as a hypothesis in your theorem

```
["conjecture", ["0","1","assume,h,false"]]
{"error":null,"search_id":"0","tactic_state":"a b : ℝ,\th₀ : 0 < a ∧ 0 < b,\th : false\t⊢ real.sqrt (a * b) ≤ (a + b) / 2","tactic_state_id":"3"}
```

Comment (spolu) [reply src/basic/conjecture_tactics.lean]: Looks great! Ideally:
- the `conjecture` sub-command would not take a hypothesis name ?
- I think we should split these two as two commands, and separate the name of the hypothesis as a separate string argument instead of having that comma concatenated big argument that seems error prone?


What are `register_conjecture_pf` and `close_old_ts_top_goal_using_conjecture` for?

**Comment by Scikud** [comment]
@spolu  removed code for other tactics. Though we may possibly want to keep those around since they potentially represent an alternative less dangerous way (but more tedious) way to do this.

--> Changed the endpoints to `conjecture_assume` and `conjecture_add` each just except a conjecture string. Hypothesis name no longer required.

Using the example above, usage looks like 
for `conjecture_add` 
```
["conjecture_add",["0","1","false"]]
{"error":null,"search_id":"0","tactic_state":"a b : ℝ,\th₀ : 0 < a ∧ 0 < b\t⊢ false","tactic_state_id":"2"}
```
and for `conjecture_assume`
```
["conjecture_assume",["0","1","false"]]
{"error":null,"search_id":"0","tactic_state":"a b : ℝ,\th₀ : 0 < a ∧ 0 < b,\th : false\t⊢ real.sqrt (a * b) ≤ (a + b) / 2","tactic_state_id":"3"}
```

lmk if that works :) !

**Comment by spolu** [comment]
This looks great. Let me try to run a few proof search with each of these tactics to convince myself it does the right thing. 

In particular given the checks we run once we reach the empty tactic state, does it actually work to close a proof search created from `conjecture_add` ? from `conjecture_assume` ?

**Comment by Scikud** [comment]
@spolu  Two main changes: 
1) The conjecture endpoints now return a new search id whenever they're called. 
2) In order to make conjecturing play nice with `finalize_proof` When the endpoints are called they'll revert the all the hypothesis back into the goal, meaning you'll need to call "intros" again. 

Example:
```
theorem dummy_test_theorem
  (x : ℝ)
  (y : ℝ) :
 (x + y = 2 * x) := sorry

```
**Intros**
```
["init_search",["dummy_test_theorem", ""]
{"error":null,"search_id":"0","tactic_state":"⊢ ∀ (x y : ℝ), x + y = 2 * x","tactic_state_id":"0"}

["run_tac",["0","0","intros"]]
{"error":null,"search_id":"0","tactic_state":"x y : ℝ\t⊢ x + y = 2 * x","tactic_state_id":"1"}
```
**Using conjecture_assume** (note search ID changes) 
```
["conjecture_assume",["0","1","x = y"]]
{"error":null,"search_id":"1","tactic_state":"⊢ ∀ (x y : ℝ), x = y → x + y = 2 * x","tactic_state_id":"0"}

["run_tac",["1","0","intros"]]
{"error":null,"search_id":"1","tactic_state":"x y : ℝ,\th : x = y\t⊢ x + y = 2 * x","tactic_state_id":"1"}
```

**Finish**
```
["run_tac",["1","1","rw h"]]
{"error":null,"search_id":"1","tactic_state":"x y : ℝ,\th : x = y\t⊢ y + y = 2 * y","tactic_state_id":"2"}

["run_tac",["1","2","ring"]]
{"error":null,"search_id":"1","tactic_state":"no goals","tactic_state_id":"3"}
```

**Comment by spolu** [comment]
Fantastic!

What about the other one?

Out of curiosity? How come it reverts the hyps?

File: src/basic/conjecture_tactics.lean [hunk 3]
```diff
@@ -51,6 +48,8 @@ meta def add_conjecture (conj_str : string) : tactic (tactic_state × tactic_sta
     tactic.write ts',
     g ← list.head <$> tactic.get_goals,
     tactic.set_goals [g],
+    tactic.revert_target_deps,
```
Comment (spolu) [inline src/basic/conjecture_tactics.lean:51]: What is this doing?

**Comment by spolu** [comment]
Also, based on your example above, do we need to `intros` first for the tactics to work?

**Comment by spolu** [comment]
@Scikud made a few aesthetics changes

This LGTM

r? @jesse-michael-han mind having a look?

**Comment by spolu** [comment]
> Also, based on your example above, do we need to `intros` first for the tactics to work?

The d

**Comment by spolu** [comment]
@Scikud actually I also inlined the two tactics so that we have better error handling. Submitting an erroneous term will not crash the process anymore!

**Comment by spolu** [comment]
Example runs:

`conjecture_set`
```
(formal) ➜  lean-gym git:(monad) ✗ rlwrap lean --run src/repl.lean
["init_search", ["mathd_algebra_35", ""]]                                                                                                                
{"error":null,"search_id":"0","tactic_state":"⊢ ∀ (p q : ℝ → ℝ),\t(∀ (x : ℝ), p x = 2 - x ^ 2) → (∀ (x : ℝ), x ≠ 0 → q x = 6 / x) → p (q 2) = -7","tactic_state_id":"0"}
["run_tac",["0","0","intros"]]                                                                                                                                                                                                                                                                                     
{"error":null,"search_id":"0","tactic_state":"p q : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ p (q 2) = -7","tactic_state_id":"1"}                                                                                                                                          
["conjecture_set", ["0", "1", "q 2 = 3"]]
{"error":null,"search_id":"1","tactic_state":"p : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2\t⊢ ∀ (q : ℝ → ℝ), (∀ (x : ℝ), x ≠ 0 → q x = 6 / x) → q 2 = 3","tactic_state_id":"0"}                                                                                                                                     
["run_tac",["1","0","intros"]]                  
{"error":null,"search_id":"1","tactic_state":"p : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\tq : ℝ → ℝ,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ q 2 = 3","tactic_state_id":"1"}                                                                                                                                     
["run_tac",["1","1","rw [h]"]]           
{"error":"gen_tac_and_capture_res_failed: pos=(some ⟨1, 2⟩) msg=unknown identifier 'h'","search_id":null,"tactic_state":null,"tactic_state_id":null}     
["run_tac",["1","1","rw [h₁]"]]
{"error":null,"search_id":"1","tactic_state":"p : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\tq : ℝ → ℝ,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ 6 / 2 = 3\t\tp : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\tq : ℝ → ℝ,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ 2 ≠ 0","tactic_state_id":"2"}                         
["run_tac",["1","2","ring"]]                                                
{"error":null,"search_id":"1","tactic_state":"p : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\tq : ℝ → ℝ,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ 2 ≠ 0","tactic_state_id":"3"}                                                                                                                                       
["run_tac",["1","3","sorry"]]                              
{"error":"proof_validation_failed: msg=proof contains `sorry`","search_id":null,"tactic_state":null,"tactic_state_id":null}                              
["run_tac",["1","3","linarith"]]                                                                                                                                                                                                                                                                                   
{"error":null,"search_id":"1","tactic_state":"no goals","tactic_state_id":"4"}
```

`conjecture_assume`
```
["init_search", ["mathd_algebra_35", ""]]                                   
{"error":null,"search_id":"0","tactic_state":"⊢ ∀ (p q : ℝ → ℝ),\t(∀ (x : ℝ), p x = 2 - x ^ 2) → (∀ (x : ℝ), x ≠ 0 → q x = 6 / x) → p (q 2) = -7","tactic_state_id":"0"}                                                                                                                                           
["run_tac",["0","0","intros"]]                                                                                                                           
{"error":null,"search_id":"0","tactic_state":"p q : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ p (q 2) = -7","tactic_state_id":"1"}                                                                                                                                          
["conjecture_assume", ["0", "1", "q 2 = 3"]]                                                                                                             
{"error":null,"search_id":"1","tactic_state":"⊢ ∀ (p q : ℝ → ℝ),\t(∀ (x : ℝ), p x = 2 - x ^ 2) → (∀ (x : ℝ), x ≠ 0 → q x = 6 / x) → q 2 = 3 → p (q 2) = -7","tactic_state_id":"0"}                                                                                                                                 
["run_tac",["1","0","intros"]]                                                                                                                           
{"error":null,"search_id":"1","tactic_state":"p q : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x,\th : q 2 = 3\t⊢ p (q 2) = -7","tactic_state_id":"1"}                                                                                                                            
["run_tac",["1","1","rw [h]"]]                                                                                                                           
{"error":null,"search_id":"1","tactic_state":"p q : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x,\th : q 2 = 3\t⊢ p 3 = -7","tactic_state_id":"2"}                                                                                                                                
["run_tac",["1","2","ring"]]                                                                                                                             
{"error":"gen_tac_and_capture_res_failed: pos=(some ⟨1, 2⟩) msg=ring_nf failed to simplify","search_id":null,"tactic_state":null,"tactic_state_id":null}
["run_tac",["1","2","linarith"]]                                                                                                                         
{"error":"gen_tac_and_capture_res_failed: pos=(some ⟨1, 2⟩) msg=linarith failed to find a contradiction","search_id":null,"tactic_state":null,"tactic_state_id":null}                                                                                                                                              
["run_tac",["1","2","rw [h₀]"]]                                                                                                                          
{"error":null,"search_id":"1","tactic_state":"p q : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x,\th : q 2 = 3\t⊢ 2 - 3 ^ 2 = -7","tactic_state_id":"3"}                                                                                                                          
["run_tac",["1","3","ring"]]                                      
{"error":null,"search_id":"1","tactic_state":"no goals","tactic_state_id":"4"}
```

Good error handling
```
["init_search", ["mathd_algebra_35", ""]]
{"error":null,"search_id":"0","tactic_state":"⊢ ∀ (p q : ℝ → ℝ),\t(∀ (x : ℝ), p x = 2 - x ^ 2) → (∀ (x : ℝ), x ≠ 0 → q x = 6 / x) → p (q 2) = -7","tactic_state_id":"0"}
["run_tac",["0","0","intros"]]
{"error":null,"search_id":"0","tactic_state":"p q : ℝ → ℝ,\th₀ : ∀ (x : ℝ), p x = 2 - x ^ 2,\th₁ : ∀ (x : ℝ), x ≠ 0 → q x = 6 / x\t⊢ p (q 2) = -7","tactic_state_id":"1"}
["conjecture_assume", ["0", "1", "Z 2 = 3"]]
{"error":"conjecture_assume_have_failed: pos=(some ⟨1, 2⟩) msg=unknown identifier 'Z'","search_id":null,"tactic_state":null,"tactic_state_id":null}
["conjecture_assume", ["0", "1", "q 2 = 3"]]
{"error":null,"search_id":"1","tactic_state":"⊢ ∀ (p q : ℝ → ℝ),\t(∀ (x : ℝ), p x = 2 - x ^ 2) → (∀ (x : ℝ), x ≠ 0 → q x = 6 / x) → q 2 = 3 → p (q 2) = -7","tactic_state_id":"0"}
```

**Review by spolu — APPROVED** [review]

**Comment by jesse-michael-han** [comment]
There is something odd happening with proof validation when the conjectured statement does not refer to existing local constants. For example:

```lean
-- using theorem dummy_test_theorem
--  (x : ℝ)
--  (y : ℝ) :
-- (x + y = 2 * x) := sorry


["init_search", ["dummy_test_theorem",""]]
{"error":null,"search_id":"0","tactic_state":"⊢ ∀ (x y : ℝ), x + y = 2 * x","tactic_state_id":"0"}
["conjecture_assume", ["0", "0", "∀ (x y : ℝ), x + y = 2 * x"]]
{"error":null,"search_id":"1","tactic_state":"h : ∀ (x y : ℝ), x + y = 2 * x\t⊢ ∀ (x y : ℝ), x + y = 2 * x","tactic_state_id":"0"}
["run_tac", ["1", "0", "assumption"]]
{"error":"proof_validation_failed: msg=infer type failed, unknown variable\n  h","search_id":null,"tactic_state":null,"tactic_state_id":null}
```

**Comment by spolu** [comment]
@jesse-michael-han the commit above fixes the issue you pointed. Apparently we need to have hypotheses reverted for the proof finalization to known about their associated meta-variables.

We were calling `revert_target_deps` which would skip your hypothesis `h` here because it the target didn't depend on it.

According to the comment on `revert_all`:
```
/- Revert "all" hypotheses. Actually, the tactic only reverts
   hypotheses occurring after the last frozen local instance.
   Recall that frozen local instances cannot be reverted.
   We can use `unfreeze_local_instances` to workaround this limitation. -/
```

It is possible we may still have issues with frozen local instances, but I'm not sure what they are?

**Comment by jesse-michael-han** [comment]
LGTM, we can always prepend the revert by `tactic.unfreeze_local_instances`
